US09212182B2
A 40-mL vial containing 1-bromo-3-(difluoromethoxy)-5-fluorobenzene (388.6 mg, 1.612 mmol), 1,1′-bis(diphenylphosphino)ferrocene palladium(11)dichloride dichloromethane adduct (65.8 mg, 0.081 mmol), bis(pinacolato)diboron (450 mg, 1.774 mmol), and potassium acetate (475 mg, 4.84 mmol) was flushed with N2 and subsequently charged with dioxane (4 mL). The slurry was stirred at 90° C. for 3.5 h. After cooling to rt, the reaction was quenched with H2O and extracted thrice with EtOAc. The organic extracts were combined, washed with brine, dried over Na2SO4, filtered, and concentrated in vacuo to a black oil. Column chromatography (25 g Snap Ultra, 0% to 100% EtOAc/hept) afforded 2-(3-(difluoromethoxy)-5-fluorophenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (228.9 mg, 0.795 mmol, 49.3% yield) as a colorless oil. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.31 (s, 12 H) 7.13-7.56 (m, 4 H). 19F NMR (376 MHz, DMSO-d6) δ ppm-110.61 (s, 1F)-82.87 (s, 2F).

reactant | 1-bromo-3-(difluoromethoxy)-5-fluorobenzene | 1.612 mmol, 388.6 mg | BrC1=CC(=CC(=C1)F)OC(F)F | C7H4BrF3O
reactant | bis(pinacolato)diboron | 1.774 mmol, 450 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 4.84 mmol, 475 mg | C(C)(=O)[O-].[K+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(3-(difluoromethoxy)-5-fluorophenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 0.795 mmol, 228.9 mg, 49.3% yield | FC(OC=1C=C(C=C(C1)F)B1OC(C(O1)(C)C)(C)C)F | C13H16BF3O3
